### ISSUE TITLE
Proof obligation for `rightpad_eq_if_rightpad_eq_of_ge` in `./CompPoly/Data/List/Lemmas.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/CompPoly#9]
A proof in `./CompPoly/Data/List/Lemmas.lean` contains a `sorry`.

**🤖 AI Analysis:**
Here is the comment for the proof obligation:

### Statement Explanation
The theorem states that if two lists `l` and `l'`, when right-padded with `unit` to lengths `n` and `n'` respectively, are equal, then they will also be equal when right-padded to a larger length `m` (assuming `m ≥ n` and `m ≥ n'`). Essentially, adding more of the same padding to already identical lists preserves their equality.

### Context
This lemma validates the consistency of the `rightpad` operation. It uses `rightpad_eq_rightpad_append_replicate_of_ge` to decompose the padding to length `m` into the padding to length `n` (or `n'`) followed by an extension. This is useful for proofs involving list alignment or normalization of list lengths.

### Proof Suggestion
1.  Look at the goal after the `simp [hLen]` tactic. The `simp` tactic has used the length equality `hLen` to ensure that the suffix parts of the lists (the `replicate` terms representing the additional padding to reach `m`) are identical.
2.  The only difference remaining between the left-hand side and the right-hand side is the prefix: `rightpad n unit l` vs `rightpad n' unit l'`.
3.  Use the hypothesis `hEq`, which states that `rightpad n unit l = rightpad n' unit l'`, to replace one with the other. The tactic `rw [hEq]` should be sufficient to close the goal.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/CompPoly/blob/master/./CompPoly/Data/List/Lemmas.lean#L117)

**Code Snippet:**
```lean
theorem rightpad_eq_if_rightpad_eq_of_ge (l l' : List α) (m n n' : Nat) (h : n ≤ m) (h' : n' ≤ m) :
    rightpad n unit l = rightpad n' unit l' →
        rightpad m unit l = rightpad m unit l' := by
  intro hEq
  rw [rightpad_eq_rightpad_append_replicate_of_ge l _ n h]
  rw [rightpad_eq_rightpad_append_replicate_of_ge l' _ n' h']
  have hLen : max n l.length = max n' l'.length := calc
    max n l.length = (rightpad n unit l).length := Eq.symm (rightpad_length n unit l)
    _ = (rightpad n' unit l').length := congrArg length hEq
    _ = max n' l'.length := rightpad_length n' unit l'
  simp [hLen]
  sorry

```
